Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dizziness and left temporal lobe 
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
___ is a ___ year-old man who presents with 1 week of
sudden onset vertigo that is resolving.  He first noted a
sensation of ear fullness while driving in ___. 
Subsequently, on ___, he awoke with sensation that the
room was spinning.  He vomited several times.  He had a profound
sense of disequilibrium and difficulty with gait.  His vertigo
gradually resolved over the course of 3 days; however, he
continued to have residual instability of gait.  He did not note
any association with head position.  He presented to ___ where he received a CT head.  This showed a lesion in the
left medial temporal lobe, for which she was referred to ___.

Currently patient denies vertigo.  He says his gait is 90% of
normal.  He also notes diminished hearing in his right ear which
has also been gradually improving.

On neurologic ROS, the pt denies headache, loss of vision,
blurred vision, diplopia, dysarthria, dysphagia, tinnitus or
hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention.
Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
HTN
DM
HLD
 
Social History:
___
Family History:
Reviewed and not pertinent to the current complaint.
 
Physical Exam:
ADMISSION EXAM:
Vitals: 98.0, 60, 197/78, 18, 97% RA
General: Awake, cooperative, NAD.
HEENT: No scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no nuchal rigidity
Pulmonary: Non-labored breathing on ambient air 
Cardiac: RRR, no MRG. 
Abdomen: Soft, NT/ND
Extremities: Warm, well-perfused, no cyanosis, clubbing or edema
bilaterally
Skin: no rashes or lesions noted.

Neurologic:
***********
-Mental Status: Awake, alert, oriented to self, place, time and
situation. Able to relate history without difficulty. Language 
is
fluent with intact comprehension. Normal prosody. There were no
paraphasic errors. Speech was not dysarthric. Able to follow 
both
midline and appendicular commands. Pt was able to register 3
objects and recall ___ at 5 minutes.  Minor difficulty with
long-term memory: Only able to name previous 2 presidents in
order without prompting 

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation.
III, IV, VI: Full range, conjugate gaze. Non-extinguishing,
high-frequency, low-amplitude end-gaze nystagmus in all
directions. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing diminished on right to finger-rub.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk throughout. No pronator drift bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5-   ___-  5    5-  5   5-    5-   5   5      5     5
R  5    ___   5    ___     5    5   5      5     5

-Sensory: No deficits to light touch, cold sensation throughout.
No extinction to DSS.

-Reflexes:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1

Plantar response was flexor bilaterally.

Head impulse negative and no skew deviation. 

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Slightly wide-based. Hesitant and
unsteady. Romberg absent. 

DISCHARGE EXAM:
Vitals: 
24 HR Data (last updated ___ @ 338)
    Temp: 97.6 (Tm 98.0), BP: 130/80 (116-170/69-80), HR: 60, 
RR:
18 (___), O2 sat: 96% (94-99), O2 delivery: Ra  

General: Awake, cooperative, NAD.
HEENT: MMM, no lesions noted in oropharynx
Pulmonary: Non-labored breathing on ambient air 
Cardiac: warm and well-perfused
Abdomen: Soft, NT/ND
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Awake, alert. Able to relate history without
difficulty. Language is fluent with intact comprehension. Normal
prosody. There were no paraphasic errors. Speech was not
dysarthric. Able to follow both midline and appendicular
commands.

-Cranial Nerves: symmetric face, no nystagmus, EOMI.

-Motor: Normal bulk throughout. No pronator drift bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted. Strength full throughout.

-Sensory: No deficits to light touch, cold sensation throughout.
No extinction to DSS.

-Reflexes: deferred

-Coordination: deferred

-Gait: wide-based.

 
Pertinent Results:
ADMISSION LABS:
___ 07:50AM BLOOD WBC-6.5 RBC-4.79 Hgb-13.9 Hct-42.5 MCV-89 
MCH-29.0 MCHC-32.7 RDW-13.1 RDWSD-42.3 Plt ___
___ 07:50AM BLOOD Neuts-68.3 Lymphs-18.4* Monos-8.9 Eos-3.5 
Baso-0.6 Im ___ AbsNeut-4.46 AbsLymp-1.20 AbsMono-0.58 
AbsEos-0.23 AbsBaso-0.04
___ 07:50AM BLOOD Plt ___
___ 07:50AM BLOOD Glucose-102* UreaN-21* Creat-1.9* Na-141 
K-3.7 Cl-107 HCO3-23 AnGap-11
___ 07:50AM BLOOD ALT-21 AST-23 AlkPhos-88 TotBili-0.8
___ 07:50AM BLOOD Albumin-3.8
___ 07:45AM BLOOD %HbA1c-9.8* eAG-235*
___ 07:45AM BLOOD Triglyc-150* HDL-30* CHOL/HD-4.7 
LDLcalc-80
___ 07:45AM BLOOD TSH-1.1
___ 07:45AM BLOOD CRP-9.3*

CTA H&N:
Head CT: 
  
-Small volume subarachnoid hemorrhage within the left sylvian 
fissure, stable 
in appearance in comparison to the previous CT. 
-No significant mass effect or midline shift.  The basilar 
cisterns are 
patent. 
  
CTA head: 
  
-Moderate to severe stenosis of the right distal ICA C2 segment. 

-Focal short segment stenosis of the inferior M2 branch of the 
left MCA. 
-Otherwise, the vessels of the circle of ___ appear within 
normal limits. 
  
CTA neck: 
  
-Moderate atherosclerotic disease without significant internal 
carotid 
stenosis on either side by NASCET criteria. The right internal 
carotid artery 
stent is patent and opacified. 
-Near complete occlusion at the origin of the right vertebral 
artery, 
reconstituted distally. 
-Within the right C3 transverse foramen there is near complete 
occlusion of 
the right vertebral artery, reconstituted distally. 
-Moderate to severe stenosis with calcified plaque at the left 
vertebral 
artery V4 segment. Several regions of aneurysmal dilatation of 
the left 
vertebral artery, as above, raising the possibility of 
connective tissue 
disease. 
 

MR brain:
1. The small focal signal abnormality at the dependent left 
sylvian 
fissures/posterior aspect of the insular cortical margin, as 
described above.  
Differential diagnosis includes small cavernous malformation 
versus chronic 
chronic subarachnoid hemorrhage.  This may be followed up with 
noncontrast 
head CT in approximately ___ weeks.  If the lesion appears 
unchanged at this 
time, this would confirm cavernous malformation. 
2. No evidence of acute territorial ischemic infarct. 
3. Involutional changes with findings suggestive of mild to 
moderate chronic 
microvascular angiopathy with several small foci of 
encephalomalacia related 
to chronic infarcts, as described above. 

 
Brief Hospital Course:
TRANSITIONAL ISSUES:
====================
[] He did not receive a TTE during this admission, this should 
be discussed in the outpatient cardiology clinic and whether he 
needs this repeated.
[] His hemoglobin A1c was 9.8. His Lantus was increased to 45 
units at bedtime, and he should have ___ with ___ 
___.
[] He will need a noncontrast head CT 2 weeks after discharge, 
at this point he should discuss with his cardiologist starting 
apixaban given atrial fibrillation vs. a Watchman device.
[] He was discharged on home ___ 10mg. He will work on 
diet. LDL should be followed and if it remains above 70 upon PCP 
___ should be increased to 20mg.
[] MRI brain w/ and w/o contrast in ___ months to evaluated for 
underlying vascular abnormality.

SUMMARY:
========
___ is a ___ year-old man with CAD, CKD III, and DM2, who 
presents with 1 week of sudden onset vertigo. His exam is 
notable for multi-directional nystagmus, mild ataxia, and 
dimished hearing on the right. Additional, he has mild left 
hemiparesis consistent with his known prior deficits. MRI brain 
with small focal signal abnormality at the dependent left 
sylvian fissures/posterior aspect of the insular cortical margin 
which is thought to be ischemia with hemorrhagic conversion vs. 
cavernoma. 

#Acute Ischemic Stroke
He presented with 1 week of vertigo. Initially, noncontrast head 
CT was performed which showed an area concerning for hemorrhage 
near the left sylvian fissure. CTA was performed, which showed 
several regions of aneurysmal dilatation of the left vertebral 
artery. MRI brain with small focal signal abnormality at the 
dependent left sylvian fissures/posterior aspect of the insular 
cortical margin, concerning for ischemia with hemorrhagic 
conversion vs. possibly cavernoma. Repeat noncontrast head CT 
was recommended in approximately 2 weeks. Risk factors included 
LDL 80, A1c 9.8. He was continued on simvastatin with plan to 
increase if LDL >70 at PCP ___. He should have CT head 
repeated in 2 weeks and then further discussion of 
anticoagulation vs. Watchmen device with his PCP for atrial 
fibrillation. In the meantime, he will be on aspirin 81 mg 
daily. Of note, he had a GI bleed on apixaban within the last 
year which is why he is not wanting to start apixaban. This 
should be continued to be discussed with outpatient cardiology. 
He should have repeat MRI brain in ___ months for evaluation of 
area of hemorrhage and ensure no vascular abnormality.

#T2DM 
Hemoglobin A1c was noted to be 9.8. He was seen by ___ who 
recommended increasing his bedtime Lantus to 45 from 30 units. 
He should follow with ___ as an outpatient.

CORE MEASURES:
- Health Care Proxy: 
Next of ___ 
 Relationship: OTHER 
 Phone: ___ 
- Code Status: Full, presumed

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = 80) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
___ 20mg or 40mg, for LDL > 70) () Yes - (x) No [if LDL 
>70, reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 5 mg PO DAILY 
2. Metoprolol Succinate XL 100 mg PO DAILY 
3. Cardizem CD 240 mg oral DAILY 
4. Furosemide 40 mg PO DAILY 
5. Doxazosin 8 mg PO HS 
6. ___ Calcium 10 mg PO QPM 
7. Glargine 30 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
8. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
9. Psyllium Powder 1 PKT PO DAILY:PRN constipation 
10. ALPRAZolam 0.5-1 mg PO QHS:PRN anxiety 
11. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Glargine 45 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
2.  ALPRAZolam 0.5-1 mg PO QHS:PRN anxiety  
3.  Aspirin 81 mg PO DAILY  
4.  Cardizem CD 240 mg oral DAILY  
5.  Doxazosin 8 mg PO HS  
6.  Furosemide 40 mg PO DAILY  
7.  Lisinopril 5 mg PO DAILY  
8.  Metoprolol Succinate XL 100 mg PO DAILY  
9.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
10.  Psyllium Powder 1 PKT PO DAILY:PRN constipation  
11.  ___ Calcium 10 mg PO QPM  
12.Outpatient Physical Therapy
ICD-___: ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic stroke with hemorrhagic conversion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized due to symptoms of dizziness resulting 
from an ACUTE ISCHEMIC STROKE, a condition where a blood vessel 
providing oxygen and nutrients to the brain is blocked by a 
clot. The brain is the part of your body that controls and 
directs all the other parts of your body, so damage to the brain 
from being deprived of its blood supply can result in a variety 
of symptoms.

You also had some bleeding in the brain from your stroke which 
was stable on ___ imaging.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
Diabetes
High blood pressure
High cholesterol
Atrial fibrillation

We are changing your medications as follows:
Increasing your bedtime insulin to 45 units from 30 units. 

In the future, we recommend starting apixaban which is a 
medication for atrial fibrillation. You will ___ with your 
cardiologist to discuss this further.

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___